Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
"Just feeling overwhelmed."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ freshman with no prior 
psychiatric diagnoses, no prior hospitalizations or SA's 
presenting with increasingly intrusive suicidal thoughts with 
stated plan of overdosing on pills in setting of multiple 
psychosocial stressors and overwhelming depressive and anxiety
symptoms.
. 
___ reports increasing anxiety and low self worth upon 
starting school at ___ approximately three weeks ago. She 
states that she has had difficulty transitioning to college and 
being away from home for the first time. Most significantly, 
this includes difficulty meeting new peers and feelings of 
isolation in setting of increasing stress regarding school 
performance. She has
frequent regret regarding her decision to come to ___ and in 
setting of worsening "anxiety" reports daily intrusive suicidal 
thoughts for the past two weeks. She started seeing a counselor 
at ___ (qWeekly) which she notes is 
beneficial short term but notes escalating anxiety despite this. 
Patient reported seeing a therapist at home in ___ during 
her
senior year of HS (biweekly).
. 
This past ___ her friend from home passed away from 
cancer. She reports increasing feelings of guilt that she did 
not reach out to this friend to say goodbye or to say something 
to her friends family. Over the past week she has felt pressure 
from school in setting of upcoming tests. She acknowledges poor 
concentration and reports that she took a practice test and made 
a number of "silly"/stupid mistakes. She states that she doesn't 
feel like she fits in, has had difficulty meeting friends, and 
is overwhelmed by the competitive nature of her program. 
.
Last night she reports the inciting stressor was her boyfriend 
of ___ years called her and spoke about taking a break in their 
relationship. Patient acknowledges that she does feel like a 
break in her relationship is understandable considering the 
distance, but notes that this came at a really tough time for 
her. Last night she felt "out of control" which resulted in
overwhelming emotion and intense suicidal thoughts with plan 
involving thoughts of overdosing on her antihistamine medication 
or her over-the counter anti-anxiety meds. These are the only 
pills she had access to. Patient denied researching how many 
pills or taking out the bottles. She reports that she just 
wanted to be "at peace" and to "not be sick." Per patient, she 
felt like she "hit the breaking point" but noted that she did 
not want to die but that she didn't know what to do. She reports 
that she felt trapped, "out of control" and didn't know how she 
could make herself feel better or what could "help her long 
term." Patient reached out to her mother who spoke with her for 
several hours before she fell asleep. In the morning patient 
emailed her counselor at ___ that she needed to talk with 
her and set up an appointment to meet with one of the on-call 
clinicians in the afternoon because her clinician did not have 
any availability. In the interim the patient attempted to attend 
her morning class which she really enjoys. Despite this, she 
reports she had difficulty motivating herself to go. She states 
that made it to the class but while she was waiting for her 
instructor to show up, her thoughts started to race and she felt 
like she was losing control. She tried to contain her thoughts 
and emotion but became visibly tearful which was apparent to her 
instructor. Her professor saw that she was tearful and walked 
her down to the
counseling center. 
. 
Patient reports ongoing suicidal thoughts in interview at the ED 
but notes that she likely "wouldn't act on it..feel like I would 
regret it. I wouldn't want to that to the people [mom] around 
me." Patient reports that her mood is poor, has a lack of 
motivation, poor energy, feelings of worthlessness and 
hopelessness. Patient reports that sleep is not impaired and 
that she has not been avoiding classes or not getting enjoyment 
from interests (performing and singing). Denies compulsions, 
obsessions, avoidance of interactions with peers. 
. 
Per collateral obtained from her mother at: ___: 
- seeing a counselor before she went to ___, had some 
anxiety issues and then when she got here she was a mess. I know 
that she is very anxious and does not know how to control it. 
Wants to return home. Counselor was telling me earlier and that 
she wants help. Mentioned that she had suicidal thoughts. Per 
Mom patient had a hard time saying goodbye when parents left 
after school.
Mom had to stay longer to help patient transition. 
.
On psychiatric review of systems, patient denied the following: 
anhedonia, hypersomnia/insomnia, psychomotor agitation, 
delusions, thought broadcasting/insertion, hallucinations, 
elevated/irritable mood, increased activity/energy, decreased 
need for sleep, grandiosity, increased speech, racing thoughts, 
distractibility, increase in goal-directed activity/psychomotor
agitation, social/economic indiscretion, obsessions, 
compulsions, nightmares, flashbacks, hypervigilence, avoidance.
.    
On medical review of systems, patient denied  fever, HA, visual 
changes, chest pain, SOB, nausea, vomiting, constipation, 
diarrhea, rashes, joint pain, dysuria. 
.
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On admission interview, patient reports that she continues to 
feel very anxious, and she endorsed the above stated story 
regarding the circumstances of her initial presentation. She 
continues to report depressed mood with diminished appetite, and 
intermittent panic attacks. At this time she reports some nausea 
which she notes is often related to her anxiety. She denies 
ongoing SI at this time, and she reports that she would feel 
comfortable approaching staff should her SI returns. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Past diagnoses: no formal diagnosis Senior year of HS thought 
she needed help--anxious, hyperventilating, crying, felt sad, 
poor sleep. Saw a counselor 
- Hospitalizations: None
- Psychiatrist & Therapist:
     -Psychologist
     -qWeekly, texted her the first week of school here
     At ___, Biweekly, ___ appointment ___)
- Medication and ECT trials (reason for d/c if known):
     -over the counter ___ anti anxiety pills 
- Self-injury/Suicide attempts:
     Freshman year she cut her arm once. Never did it again. 
- Trauma:
     denies

PAST MEDICAL HISTORY:
**PCP: Dr. ___ history of head trauma, seizure.

 
Social History:
SUBSTANCE USE HISTORY:
- Alcohol: denies 
- Illicits: denies 
- Tobacco: denies 
. 
FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): Denies
. 
SOCIAL HISTORY: Born and raised in ___ as the 
youngest of 2. Stated she has a brother age ___. Noted somewhat 
chaotic childhood, stating her father was "not in my life," 
noting her parents married, divorced, remarried, and are 
currently separated. Ms. ___ notes she never had a 
relationship with her father, stating he was not there for her 
birth "and has never been there." Reported she is closes with 
her mother who "has a lot of medical issues" and is on 
disability. Notes her relationship with her mother can be 
complicated, as "I am her main focus" and noted that her mother 
was adamantly against her taking medication as her mother had 
had a negative experience with psychiatric medications in the 
past. Denies history of sexual or physical abuse. Denies history 
of legal issues. Prior to coming to ___, was living with her 
mother and grandmother, who works as an ___. 
- Born/Raised: ___ 
- Relationship status/Children: ___ years relationship with 
boyfriend, met in ___ class
-Primary Supports: Mom, grandma. Parents separated. Closer with
Mom. Dad was not around growing up. Patient reports her mother 
suffers from numerous medical comorbidities including 
fibromyalgia and is on disability. 
-Housing: lives in ___ with roommates 
-Education: ___ Freshman studying vocal studies,
performance
-Employment/Income: None

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Fam Dx: 
    Mom w/ depression
    Maternal Grandma's sister had manic depression

 
Physical Exam:
Admission Physical EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "Things are gonna get better."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: ___ year old woman appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative
-Mood: "Anxious"
-Affect: Mood-congruent, restricted range, appropriate to
situation, tearful
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

 
Pertinent Results:
___ 02:43PM BLOOD WBC-8.7 RBC-4.39 Hgb-12.8 Hct-39.9 MCV-91 
MCH-29.2 MCHC-32.1 RDW-12.1 RDWSD-40.5 Plt ___
___ 02:43PM BLOOD Neuts-76.5* Lymphs-18.2* Monos-4.4* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-6.65* AbsLymp-1.58 
AbsMono-0.38 AbsEos-0.03* AbsBaso-0.03
___ 02:43PM BLOOD Glucose-109* UreaN-7 Creat-0.6 Na-142 
K-3.9 Cl-106 HCO3-26 AnGap-10
___ 01:15PM BLOOD ALT-9 AST-17 AlkPhos-75 TotBili-0.6
___ 01:15PM BLOOD Calcium-9.5 Phos-3.6 Mg-2.0
___ 01:15PM BLOOD TSH-1.3
___ 01:15PM BLOOD HCG-<5
___ 02:43PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:09PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 04:09PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ ___ freshman with no prior 
psychiatric diagnoses, no prior hospitalizations or SA's 
presenting with increasingly intrusive suicidal thoughts with 
stated plan of overdosing on pills in setting of multiple 
psychosocial stressors. 
.
Upon interview, patient reported history of depression and 
anxiety beginning in high school, stating later during her 
admission that her depression'"comes and goes" lasting a day to 
several days. Reported that in the setting of feeling 
overwhelmed with transitioning to school, feeling alone with 
limited supports, the loss of an acquaintance 2 weeks ago from 
cancer, and recent breakup with her boyfriend, she has been 
feeling increasingly depressed and anxious, feeling "out of 
control" with intense emotions, suicidal ideation with patient 
initially reporting plan to overdose on ___ anti-anxiety 
medications. On initial interview, patient also reported low 
mood, poor motivation, poor energy, feelings of hopelessness and 
worthlessness. No history of psychotic or manic symptoms and 
patient denied drug lr alcohol abuse. 
.
Diagnostically, etiology of presentation is unclear; although 
patient likely meets criteria for MDD without psychotic features 
given the above presentation, she endorses prior episodes of 
depression lasting 1 day to several days with improvement of her 
mood, which is not consistent with MDD. No history of mania or 
psychosis, and she was certainly not manic or psychotic on my 
examination-- however, given her young age, certainly this could 
not be ruled out at this time. Given her young age and good 
health, there is very low suspicion of an underlying medical 
illness contributing to her presentation, and no evidence that 
substance use is contributing to her presentation particularly 
given her negative toxicology screen.  Of course, underlying 
character pathology may be emerging, but given her young age I 
would not diagnosed her with a personality disorder at this 
time.
. 
#. Legal/Safety: Patient admitted to ___ for on a ___, upon admission, she signed a conditional voluntary form as 
well as a 3-day notice that expired on day of discharge.  Of 
note, she maintain her safety throughout her hospitalization on 
15-minute checks and did not require physical or chemical 
restraints.  Given her consistent denial of suicidal ideation or 
thoughts of self-harm, thought process that was notably linear, 
goal and future oriented, I do not believe she met criteria to 
file a section 7 and 8B. 
. 
#. Depression/Anxiety: as noted above 
- Patient was compliant and attending groups and maintain good 
behavioral control throughout her hospitalization, was social 
with peers, and compliant in meeting with her treatment team
- After discussion of the risks and benefits, sertraline was 
started at 25 mg p.o. daily and was increased to 50 mg p.o. 
daily.  Of note, the patient tolerated this well with no 
complaints of side effects aside from perhaps slightly loose 
stools.
- For insomnia, patient received Ramelteon 8 mg po qhs prn 
insomnia with good result
-Patient was briefly trialed on low-dose hydroxyzine for 
insomnia and anxiety without significant improvement, and so 
this was discontinued prior to discharge.  
- In the setting of the above medication changes and the 
stabilizing environment of the unit, the patient reported rapid 
improvement in her depression and resolution of her suicidal 
ideation. A family meeting was held prior to discharge with her 
mother, who was supportive of a quick discharge from the 
inpatient unit. 
- Of note, I offered the patient brought to a partial 
hospitalization program, which she declined, stating she would 
prefer to follow-up with outpatient treaters at this time.
.
#. Medical: No acute issues during this hospitalization

 
Medications on Admission:
None 
 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe, without psychotic 
features 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

VS:  98.1   PO 107/65   62    16    98%RA   
A/B: Appears stated age, calm, cooperative, good eye contact, no 
psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, appropriate
TC: denies SI, thoughts of self harm, denies HI, no AVH
TP: linear, logical, goal and future oriented
C: awake, alert, responds to questions appropriately 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___